US06197969B1
In 500 ml of toluene, 10.2 g (0.05 mol) of N-isopropoxycarbonyl-D-valine was dissolved. Thereto were dropwise added, at −5° C., 12.4 g (0.0125 mol) of N-methylmorpholine and 6.8 g (0.05 mol) of isobutyl chlorocarbonate. Thereto was added, at −5° C., 18.3 g (0.05 mol) of (R)-1-(6-fluoro-2-benzothiazolyl)ethylamine p-toluenesulfonate. A reaction and a post-treatment were conducted in the same manner as in Reference Example 1, and the suspension of a solid in toluene was filtered to collect the solid. The solid was subjected to Soxhlet extraction for 1 week, and the extract was concentrated to obtain a solid. The solid was recrystallized from xylene to obtain 11.6 g (yield: 62.7%) of isopropyl {(R)-1-[(R)-1-(6-fluorobenzothiazol-2-yl)ethylcarbamoyl]-2-methylpropyl}carbamate. The compound obtained was confirmed for the structure by IR analysis and NMR analysis in comparison with its authentic material and identified.

reactant | N-isopropoxycarbonyl-D-valine | 0.05 mol, 10.2 g | C(C)(C)OC(=O)N[C@H](C(C)C)C(=O)O | C9H17NO4
reactant | N-methylmorpholine | 0.0125 mol, 12.4 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 0.05 mol, 6.8 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | (R)-1-(6-fluoro-2-benzothiazolyl)ethylamine p-toluenesulfonate | 0.05 mol, 18.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.FC1=CC2=C(N=C(S2)[C@@H](C)N)C=C1
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | isopropyl {(R)-1-[(R)-1-(6-fluorobenzothiazol-2-yl)ethylcarbamoyl]-2-methylpropyl}carbamate | 11.6 g, yield: 62.7% | FC1=CC2=C(N=C(S2)[C@@H](C)NC(=O)[C@@H](C(C)C)NC(OC(C)C)=O)C=C1 | C18H24FN3O3S
